US07608629B2
Preparation 70. 6-(1-cyclopropylmethyl-piperidin-4-yloxy)-pyridin-2-ylamine
Combine 2-chloro-6-(1-cyclopropylmethyl-piperidin-4-yloxy)-pyridine (preparation 56, 480 mg, 1.80 mmol), benzophenone imine (391 mg, 2.16 mmol), BINAP (67 mg, 0.11 mmol), pd2(dba)3 (33 mg, 0.036 mmol), sodium t-butoxide (242 mg, 2.52 mmol) and toluene (8 mL) and heat at 100° C. for 14 hr. Quench the reaction with saturated NaHCO3 solution, extract with ethyl acetate three times. Combine the organic layers, dry over Na2SO4, filter and concentrate under reduced pressure to give a residue. Dissolve the residue in THF (10 mL), add 5N HCl (1.0 mL) and stir for 30 min. Dilute the mixture with 0.1N HCl solution, extract twice with ethyl acetate-hexanes (1:2). Keep the aqueous layer and adjust pH>11 with 5N NaOH solution, extract with methylene dichloride three times. Combine the organic layers, dry over Na2SO4, filter and concentrate to give a residue. Chromatography (silica gel) eluting with 7% 2M NH3-methanol in methylene dichloride provides 310 mg (70%) of the title compound as a white solid: mass spectrum (ion spray): m/z=248.1 (M+1); 1H NMR (CDCl3, ppm): 7.23 (t, 1H), 5.95 (pseudo-t, 2H), 4.81 (m, 1H), 4.14 (s, br, 2H), 2.76 (m, 2H), 2.26 (m, 2H), 2.18 (d, 2H), 1.92 (m, 2H), 1.71 (m, 2H), 0.80 (m, 1H), 0.44 (m, 2H), 0.00 (m, 2H).

reactant | 2-chloro-6-(1-cyclopropylmethyl-piperidin-4-yloxy)-pyridine | 1.80 mmol, 480 mg | ClC1=NC(=CC=C1)OC1CCN(CC1)CC1CC1 | C14H19ClN2O
reactant | benzophenone imine | 2.16 mmol, 391 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | sodium t-butoxide | 2.52 mmol, 242 mg | CC(C)([O-])C.[Na+]
reactant | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | HCl | 0.1N | Cl | ClH
catalyst | pd2(dba)3 | 0.036 mmol, 33 mg | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | BINAP | 0.11 mmol, 67 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | HCl | 5N, 1.0 mL | Cl | ClH
product | 6-(1-cyclopropylmethyl-piperidin-4-yloxy)-pyridin-2-ylamine | 310 mg, 70% | C1(CC1)CN1CCC(CC1)OC1=CC=CC(=N1)N | C14H21N3O
